US04673746
A solution of 23.3 g of Z-2,3-dichloro-4'-ethoxy-2'-fluoro-4-methoxybenzophenone oxime in 175 ml dimethylformamide is added to 1.85 g of sodium hydride in 35 ml of dimethylformamide. After stirring 30 min at room temperature, the reaction is worked up with water and 1:1 diethyl ether/2-butanone. Concentration of the dried organic phase, trituration of the product with hexane and recrystallization from toluene/hexane gives 7-chloro-3-(4-ethoxy-2-fluorophenyl)-6-methoxy-1,2-benzisoxazole, mp 151°-152° C.

reactant | Z-2,3-dichloro-4'-ethoxy-2'-fluoro-4-methoxybenzophenone oxime | 23.3 g | ClC1=C(\C(\C2=C(C=C(C=C2)OCC)F)=N/O)C=CC(=C1Cl)OC | C16H14Cl2FNO3
reactant | sodium hydride | 1.85 g | [H-].[Na+]
reactant | water | O | H2O
reactant | diethyl ether 2-butanone | C(C)OCC.CC(CC)=O
solvent | dimethylformamide | 175 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(4-ethoxy-2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | ClC1=C(C=CC=2C(=NOC21)C2=C(C=C(C=C2)OCC)F)OC | C16H13ClFNO3
